US06441017B1
Step M: (R)-3-(tert-Butoxycarbonylamino)-1-(3-hydroxybenzyl)-2-oxopyrrolidine
To a solution of (R)-1-(3-benzyloxybenzyl)-3-(tert-butoxycarbonylamino)-2-oxopyrrolidine, as described above in Step L, (500 mg, 1.26 mmol) in EtOH (75 mL) was added 20% Pd(OH)2 on carbon (75 mg) and the reaction mixture was stirred under an atmosphere of hydrogen (ca. 1 atm) at ambient temperature for 18 hours. The mixture was filtered through a pad of celite, washing with EtOH, and the filtrate was concentrated in vacuo to give a crude product. This was purified by flash column chromatography on silica, eluting with CHCl3—3% MeOH—0.3% NH4OH, to yield the titled product as a colorless oil.

reactant | (R)-1-(3-benzyloxybenzyl)-3-(tert-butoxycarbonylamino)-2-oxopyrrolidine | C(C1=CC=CC=C1)OC=1C=C(CN2C([C@@H](CC2)NC(=O)OC(C)(C)C)=O)C=CC1 | C23H28N2O4
solvent | EtOH | 75 mL | CCO | C2H6O
catalyst | Pd(OH)2 on carbon | 75 mg | [OH-].[OH-].[Pd+2]
product | (R)-3-(tert-Butoxycarbonylamino)-1-(3-hydroxybenzyl)-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1C(N(CC1)CC1=CC(=CC=C1)O)=O | C16H22N2O4
